Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
unresponsiveness and confusion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Ms. ___ is a ___ year old woman with history of
advanced vascular dementia, prior right basal ganglia and
subcortical infarct with residual left hemiparesis and aphasia,
HTN, Type 2 DM, who presents as transfer from ___
following two episodes of unresponsiveness and with persistent
confusion.

History is provided by collateral from daughter and discussion
with patient's nurse at facility as patient cannot provide
history. Notably, I did use a phone ___ interpreter 
to
attempt to converse with patient but patient remained nonverbal. 


Per discussion with patient's nurse at her ___, Ms. ___ 
had
been in her usual state of health recently until around 11:30am
this morning (___) when she suddenly became "unresponsive,"
during which she was not responsive to verbal or tactile 
stimuli,
and drooling. She also had sustained gaze deviation toward one
side, but laterality was not documented. There were no clear
changes in tone or shaking movements. It lasted 1.5 minutes.
Vitals were BP 162/80, HR 100, O2 92% RA.  Nurse called the
physician for the facility, who came to assess her.

In the middle of the physician ___ 30 minutes later, she
had a second episode that was similar to above, except it now 
was
associated with shaking of both arms. Nurse had heard she was
"flailing her arms around" but further details were not
documented. Afterward, patient was nonverbal and somnolent, and
she had continued to be somnolent without much improvement by 
the
time EMS arrived.

She was brought to ___ for further evaluation. Initial
vitals were temperature 98.7F, HR 94, RR 18, BP 178/111, O2 96%. 

Lab workup included CBC with WBC 13.3 and otherwise 
unremarkable,
BMP that was normal, troponin 0.03, glucose 173, calcium 9.3,
prolactin 27.5. She had a head CT which revealed chronic infarct
in right basal ganglia and corona radiata, without acute 
process.
CXR was normal. EKG was NSR, HR 101. She was transferred to 
___
for neurology evaluation.  

Per collateral from patient's nurse, she has advanced dementia 
at
baseline. She is wheelchair bound due to her left hemiparesis
from stroke. She requires a ___ lift. She is incontinent and
requires assistance with all ADLs. She can feed herself using 
her
right hand. She can answer simple questions, and may carry a
brief conversation, but often "goes into ragtime speech that
doesn't make any sense." She inconsistently follows commands at
baseline (even when using a ___ speaking 
interpreter).

I called patient's daughter ___ for further collateral. She
notes that the patient has had UTIs in the past, and when she
develops a UTI she typically is somnolent and may be nonverbal. 
However, she has never had any shaking movements or episodes
concerning for seizure. The baseline she provides about the
patient's cognitive status is better than what was described by
the nurse- she reports she consistently follows commands in her
native language at baseline, and can carry conversations at
baseline. 

Both daughter and nurse corroborate that there have been no
recent illnesses, no recent fever, no new or missed medications,
and no clear triggers for this recent presentation.
 
Past Medical History:
HTN
Vascular dementia
Prior R BG stroke with residual L hemiparesis 
T2 DM 
L eye traumatic injury with residual blindness 
 
Social History:
___
Family History:
Noncontributory. 
 
Physical Exam:
General: sleeping in bed, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: 1+ b/l ___ edema 
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: More awake today. Creole speaking. No clear
evidence of hemineglect. Responds to axial commands. Says
"goodbye" at end of the exam.

-Cranial Nerves: L pupil 7mm, fixed and nonreactive (baseline). 
R
pupil 3>2.5mm. Intact corneals. EOMI via tracking examiner
briefly and oculocephalic reflex. L UMN facial weakness. Tongue
protrudes midline.

-Sensorimotor: Unable to do focal motor testing given mental
status. She has a dense L hemiparesis, LUE>LLE spasticity. LUE
contraction and LLE knee contraction. Increased tone in both
lower extremities. LUE withdraws to noxious slightly in plane of
bed, LLE briskly withdraws to noxious. RUE moves spontaneously
antigravity, RLE moves spontaneously in the plane of bed and 
does
move antigravity to noxious. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0 
R  2  2    2    0   0
Plantar response was extensor on left, flexor on right

-Coordination, Gait deferred

 
Pertinent Results:
___ 11:57AM   %HbA1c-6.6* eAG-143*
___ 06:15AM   TRIGLYCER-42 HDL CHOL-43 CHOL/HDL-3.0 
LDL(CALC)-80
___ 06:15AM   TSH-0.81
___ 08:47PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 08:47PM URINE  RBC-4* WBC-68* BACTERIA-MANY* YEAST-NONE 
EPI-0
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of
advanced vascular dementia, prior right basal ganglia and
subcortical infarct with residual left hemiparesis and aphasia,
HTN, Type 2 DM, who presents as transfer from ___
following two episodes of unresponsiveness and with persistent
confusion. 

Workup notable for positive UTI, and otherwise thus
far unrevealing toxic-metabolic workup. Her UTI was treated with 
a course of 3 days of ceftriaxone. 

 Noncontrast head CT was completed without any acute changes. 
MRI was attempted to assess for new stroke, but she could not 
tolerate procedure due to agitation. The risks of sedation did 
not outweight benefits at this time so it was not completed.

EEG was started which showed findings consistent with seizure. 
She was started on Keppra 1000mg BID which she will continue 
outpatient. 

She returned to her baseline, per her daughter's assessment and 
was determined safe for discharge back to her facility.

 
Medications on Admission:
Aspirin 81mg daily
Atorvastatin 40mg daily 
Lisinopril 20mg daily
Amlodipine 5mg daily 
Tylenol PRN 
Brimidone 0.2% drop OS TID 
Colace daily 
Dorzolamide-HCL-Timolol 22.3-6.8mg/ml OS TID 
 
Discharge Medications:
1.  LevETIRAcetam 1000 mg IV BID 
RX *levetiracetam [Keppra] 500 mg/5 mL 10 mL PO twice a day Disp 
#*1200 Vial Refills:*3 
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
6.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE TID  
7.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
toxic encephalopathy and seizure in setting of urosepsis

 
Discharge Condition:
Mental Status: More awake today. Creole speaking. No clear
evidence of hemineglect. Responds to axial commands. Says
'goodbye' at end of the exam.
Sensorimotor: Unable to do focal motor testing given mental
status. She has a dense L hemiparesis, LUE>LLE spasticity. LUE
contraction and LLE knee contraction. Increased tone in both
lower extremities. LUE withdraws to noxious slightly in plane of
bed, LLE briskly withdraws to noxious. RUE moves spontaneously
antigravity, RLE moves spontaneously in the plane of bed and 
does
move antigravity to noxious.
nonambulatory

 
Discharge Instructions:
Dear ___,

You were admitted to ___ from 
___ until ___ following a two episodes of 
unresponsiveness and persistent confusion. While in the 
hospital, you were found to have a urinary tract infection which 
we treated with antibiotics. You were also hooked up to EEG and 
thought to have had seizures. We believe that your UTI lead to 
seizures which resulted in your episodes of unresponsiveness and 
confusion. You are back to your baseline and believe you are 
well enough to return to your facility. It was our pleasure 
caring for you. Thank you for involving us in your care.

Sincerely,

___ Neurology
 
Followup Instructions:
___